US05204334
The starting material can be prepared, for example, as follows: 3.0 g (0.01 mol) of 3-{N-[2-(chroman-3-yl)ethyl]amino}propionic acid methyl ester hydrochloride are heated at boiling point for 4 hours, with stirring, with 20 ml of 4N hydrochloric acid. The reaction mixture is then concentrated by evaporation under reduced pressure and the residue is stirred with acetone, yielding 3-{N-[2-(chroman-3-yl)ethyl]amino}propionic acid hydrochloride having a melting point of 186°-188°.

reactant | 3-{N-[2-(chroman-3-yl)ethyl]amino}propionic acid methyl ester hydrochloride | 0.01 mol, 3.0 g | Cl.COC(CCNCCC1COC2=CC=CC=C2C1)=O
solvent | hydrochloric acid | 4N, 20 ml | Cl | ClH
product | 3-{N-[2-(chroman-3-yl)ethyl]amino}propionic acid hydrochloride | Cl.O1CC(CC2=CC=CC=C12)CCNCCC(=O)O | InChI=1S/C14H19NO3.ClH/c16-14(17)6-8-15-7-5-11-9-12-3-1-2-4-13(12)18-10-11;/h1-4,11,15H,5-10H2,(H,16,17);1H
